US07902195B2
A solution of 7-chloro-3-(piperazin-1-yl)-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one (72 mg, 0.18 mmol) in 1,4-dioxane (2.5 mL) was treated with tetrakis(triphenylphosphine) palladium(0) (19 mg, 0.016 mmol, Strem) and stirred at room temperature for five minutes. A warm solution of 2-methoxy-5-pyridineboronic acid (41 mg, 0.27 mmol, Frontier) in ethanol (0.5 mL) and 2.0 M aqueous sodium carbonate 1.5 mL) were added. The mixture was refluxed for 2.0 hours, filtered hot through celite and the filtrate was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water, and the layers were separated. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, concentrated under reduced pressure, and passed through a column of silica gel with 2% methanol/dichloromethane. Fractions were concentrated at reduced pressure and triturated with diethyl ether. The 7-(6-methoxypyridin-3-yl)-3-(piperazin-1-yl)-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one was obtained as a pink powder.

reactant | 7-chloro-3-(piperazin-1-yl)-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one | 0.18 mmol, 72 mg | ClC1=CC2=C(N=C(C(N2CCOCCC)=O)N2CCNCC2)C=N1 | C16H22ClN5O2
reactant | 2-methoxy-5-pyridineboronic acid | 0.27 mmol, 41 mg | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | sodium carbonate | 2.0 M, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.016 mmol, 19 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-(6-methoxypyridin-3-yl)-3-(piperazin-1-yl)-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one | COC1=CC=C(C=N1)C1=CC2=C(N=C(C(N2CCOCCC)=O)N2CCNCC2)C=N1 | C22H28N6O3
